US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(4-CHLOROPHENYL)ETHYL]AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid [2-(4-chlorophenyl)ethyl]amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a light yellow powder (46.5% yield). 1H NMR (500 MHz, CDCl3) δ 8.10, 7.95, 7.75, 7.65, 7.58, 7.35, 7.25, 7.15, 7.00, 4.10, 3.95-3.66, 3.38, 2.90.

reactant | 6-chloropyridazine-3-carboxylic acid [2-(4-chlorophenyl)ethyl]amide | ClC1=CC=C(C=C1)CCNC(=O)C=1N=NC(=CC1)Cl | C13H11Cl2N3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(4-CHLOROPHENYL)ETHYL]AMIDE | ClC1=CC=C(C=C1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H23ClF3N5O2
